US08609656B2
N-(1-{4-[3-(4-Chloro-3-(trifluoromethyl)phenyl)-3-hydroxyureido]phenyl}-1H-indol-5-yl)acetamide (Table 1, Compound No. 74)
The title compound can be synthesized from 1-[4-(5-aminoindol-1-yl)phenyl]-3-(4-chloro-3-(trifluoromethyl)phenyl)-3-hydroxyurea hydrochloride and acetic anhydride by using the same techniques as in Example 41.

reactant | 1-[4-(5-aminoindol-1-yl)phenyl]-3-(4-chloro-3-(trifluoromethyl)phenyl)-3-hydroxyurea hydrochloride | Cl.NC=1C=C2C=CN(C2=CC1)C1=CC=C(C=C1)NC(=O)N(O)C1=CC(=C(C=C1)Cl)C(F)(F)F
reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
product | N-(1-{4-[3-(4-Chloro-3-(trifluoromethyl)phenyl)-3-hydroxyureido]phenyl}-1H-indol-5-yl)acetamide | ClC1=C(C=C(C=C1)N(C(NC1=CC=C(C=C1)N1C=CC2=CC(=CC=C12)NC(C)=O)=O)O)C(F)(F)F | C24H18ClF3N4O3
